US05476933
Preparation of 6, 7-dimethyl-3-hydroxy-1H-1-benzazepine-2,5-dione (109).
To a stirred solution of 6,7-dimethyl-3-methoxy-1H-1-benzazepine2,5-dione (300 mg, 1.30 mmol) in dry CH2Cl2 (40 mL, distilled from CaH2) under N2, there was added a solution of BBr3 in CH2Cl2 (6 mL, 1M, Aldrich) in one portion over 1 min at rt. The reaction solution immediately became orange, then an orange precipitate formed during the addition. The reaction was allowed to stir under N2 at rt for 45 min. The reaction was added to saturated NaHCO3 (50 mL) and the resulting mixture was vigorously stirred for 15 min to give a yellow aqueous phase and a near colorless organic phase. The phases were separated and the aqueous phase washed with CH2Cl2 (1×10 mL). The aqueous portion was acidified with concd HCl (pH 2). The resulting precipitate was collected by vacuum filtration, washed to neutrality with H2O (6×2 mL) and dried in vacuo to give a yellow powder. Crystallization from EtOAc (dissolved in 20 mL, hot filtered, coned to 10 mL, allowed to cool to rt) yielded fine green needles (154 mg, 55%, pure by 1H NMR); mp 206°-208° C. (dec.); 1H NMR (DMSO-d6) δ2.16 (s, 3H), 2.23 (s, 3H), 6.30 (s, 1H), 7.09 (d, J=8.1 Hz, 1H), 7.28 (d, J=8.4 Hz, 1H), 10.31 (bs, 1H), 11.08 (s, 1H); IR (KBr) 3260 (m), 3194 (m), 3078 (m), 2989 (m), 1643 (s), 1614 (s), 1581 (m), 1503 (m), 1479 (m), 1449 (m), 1393 (s), 1374 (m), 1347 (m), 1310 (m), 1284 (m), 1259 (m), 1238 (w), 1212 (s), 1145 (m), 1047 (m), 992 (m), 969 (w), 883 (m), 871 (m), 851 (m), 833 (m), 824 (m), 771 (m), 755 (w), 705 (m), 658 (m), 633 (m), 613 (m), 571 (m), 501 (m), 473 (m), 406 (m); Anal. Calcd for C12H11NO3 : C, 66.35, H, 5.10, N, 6.45. Found: C, 66.65; H, 4.81; N, 6.44.

reactant | 6,7-dimethyl-3-methoxy-1H-1-benzazepine2,5-dione | 1.30 mmol, 300 mg | CC1=C(C=CC2=C1C(C=C(C(N2)=O)OC)=O)C | C13H13NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1M, 6 mL | C(Cl)Cl | CH2Cl2
product | 6, 7-dimethyl-3-hydroxy-1H-1-benzazepine-2,5-dione | CC1=C(C=CC2=C1C(C=C(C(N2)=O)O)=O)C | C12H11NO3
